US06316477B1
1-(2,6-dichloro-4-trifluoromethylphenyl)-5-methoxymethylideneamino-3-(1,2,4-oxadiazol-3-yl)-4-trifluoromethylsulfinylpyrazole (Compound No. 2-15)
5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylsulfinyl-3-pyrazolecarboxamide oxime (1.81 g, 3.85 mmol) was dissolved in 25 ml of trimethyl orthoformate and p-toluenesulfonic acid monohydrate (0.08 g) was added, and then the mixture was heated under reflux for 6 hours. After heating, trimethyl orthoformate was distilled off and 80 ml of ethyl acetate was added to the residue. The ethyl acetate layer was washed three times with 50 ml of an aqueous saturated sodium hydrogencarbonate solution, and then washed with 50 ml of an aqueous saturated sodium chloride solution. After drying over anhydrous magnesium sulfate, the solvent was distilled off to obtain a colorless oil. The oil was subjected to silica gel column chromatography [eluent: mixed solvent of ethyl acetate and chloroform (volume ratio=1:20)] and the resulting crystal was washed with hexane to obtain 1.03 g (1.97 mmol) of the title compound as a colorless crystal. Yield 51%.

reactant | 5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylsulfinyl-3-pyrazolecarboxamide oxime | 3.85 mmol, 1.81 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(N)=NO)S(=O)C(F)(F)F | C12H7Cl2F6N5O2S
reactant | p-toluenesulfonic acid monohydrate | 0.08 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | trimethyl orthoformate | 25 ml | C(OC)(OC)OC | C4H10O3
product | 1-(2,6-dichloro-4-trifluoromethylphenyl)-5-methoxymethylideneamino-3-(1,2,4-oxadiazol-3-yl)-4-trifluoromethylsulfinylpyrazole | 1.97 mmol, 1.03 g, Yield 51% | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1N=COC)S(=O)C(F)(F)F)C1=NOC=N1 | C15H7Cl2F6N5O3S
